US05098996
p-Hydroxymethylbenzoylaminoethylamine acetate.
Ethyl p- hydroxymethylbenzoate (0.51 g, 2.8 mmol) was dissolved in ethylene diamine and heated on a steam bath overnight. The volume was reduced under a stream of nitrogen and the residue was chromatographed by preparative thin layer chromatography (silica, CHCl3 : MeOH:HOAc, 10:10:1) to yield the product as an oil (0.35 g, 49% yield).

reactant | Ethyl p- hydroxymethylbenzoate | 2.8 mmol, 0.51 g | OCC1=CC=C(C(=O)OCC)C=C1 | C10H12O3
reactant | ethylene diamine | C(CN)N | C2H8N2
product | p-Hydroxymethylbenzoylaminoethylamine acetate | 0.35 g, 49% yield | C(C)(=O)O.OCC1=CC=C(C(=O)NCCN)C=C1 | InChI=1S/C10H14N2O2.C2H4O2/c11-5-6-12-10(14)9-3-1-8(7-13)2-4-9;1-2(3)4/h1-4,13H,5-7,11H2,(H,12,14);1H3,(H,3,4)
